US07250528B2
c) Preparation of 2-methyl-1H-inden-1-yl Acetate
Using the same experimental procedure as under a), 2-methylcinnamaldehyde (21 g, 0.14 mol) in AcOH (27 g), FeCl3·6H2O (6 ml of a 0.25 M solution in Ac2O, 1.5 mmol) in Ac2O (53 g) were reacted together. After a further 2 hours at reflux the cooled mixture was treated to the same workup and purification as before to provide the title compound

reactant | 2-methylcinnamaldehyde | 0.14 mol, 21 g | CC1=C(C=CC=O)C=CC=C1 | C10H10O
reactant | AcOH | 27 g | CC(=O)O | C2H4O2
solvent | Ac2O | CC(=O)OC(=O)C | C4H6O3
solvent | Ac2O | 53 g | CC(=O)OC(=O)C | C4H6O3
product | 2-methyl-1H-inden-1-yl Acetate | yield=70% | C(C)(=O)OC1C(=CC2=CC=CC=C12)C | C12H12O2
